US07737135B2
a) 4-bromo-2-fluoro-N-methyl-N-(1-methylethyl)-benzamide
The sub-title compound was prepared by the method of example 18 step a) using 4-bromo-2-fluorobenzoic acid and N-methyl-2-propanamine.

reactant | 4-bromo-2-fluorobenzoic acid | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | N-methyl-2-propanamine | CNC(C)C | C4H11N
product | 4-bromo-2-fluoro-N-methyl-N-(1-methylethyl)-benzamide | BrC1=CC(=C(C(=O)N(C(C)C)C)C=C1)F | C11H13BrFNO
